US07973162B2
Step 1: (3aR,9bS)-tert-butyl 1-methyl-1,2,3,3a,4,9b-hexahydrospiro[benzo[g]indole-5,4′-piperidine]-1′-carboxylate
Sodium hydride (60% dispersed in oil, 58 mg) was washed with anhydrous 2,2,4-trimethylpentane and suspended in anhydrous THF. Lithium perchlorate (78 mg, 0.73 mmol) was added to the suspension at 0° C., followed by (3aR,9bS)-tert-butyl 2-oxo-1,2,3,3a,4,9b-hexahydrospiro[benzo[g]indole-5,4′-piperidine]-1′-carboxylate (142 mg, 0.4 mmol) in THF (10 ml) at 0° C. After 15 min, methyl iodide (0.04 ml, 0.6 mmol) was added. The reaction mixture was stirred at room temperature for 1 h then heated under reflux for 1 h. Concentration gave the title compound. LC-MS: m/e=371.6 (M+), 315.5 (M−tBu+1, 100%). Rt=3.12 min.

reactant | Lithium perchlorate | 0.73 mmol, 78 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | (3aR,9bS)-tert-butyl 2-oxo-1,2,3,3a,4,9b-hexahydrospiro[benzo[g]indole-5,4′-piperidine]-1′-carboxylate | 0.4 mmol, 142 mg | O=C1N[C@@H]2C3=C(C=CC=C3)C3(CCN(CC3)C(=O)OC(C)(C)C)C[C@@H]2C1 | C21H28N2O3
reactant | methyl iodide | 0.6 mmol, 0.04 ml | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (3aR,9bS)-tert-butyl 1-methyl-1,2,3,3a,4,9b-hexahydrospiro[benzo[g]indole-5,4′-piperidine]-1′-carboxylate | CN1CC[C@H]2CC3(CCN(CC3)C(=O)OC(C)(C)C)C3=C([C@@H]12)C=CC=C3 | C22H32N2O2
